US04820827
5-Bromo-2-(4-fluorophenyl)-3-(4-methylthiophenyl)thiophene
A solution of 2-(4-fluorophenyl)-3-(4-methylthiophenyl)thiophene (7.5 g, 25 mmole) in methylene chloride (75 ml) was diluted with 75 ml of acetic acid, cooled to about 5°, and treated dropwise with a 1M solution of bromine in acetic acid (28 ml, 1.1 equiv). The reaction mixture was stirred at 5° for 1.5 hours and then concentrated in vacuo. The residue was dissolved in ethyl acetate and the solution washed with saturated aqueous sodium bicarbonate and brine, dried, and evaporated. Recrystallization from methanol, with cooling in Dry Ice, gave the title compound in two crops (7.60 g), m.p. 75°-78°. Infrared and NMR spectral data were consistent with the assigned structure.

reactant | 2-(4-fluorophenyl)-3-(4-methylthiophenyl)thiophene | 25 mmole, 7.5 g | FC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)SC | C17H13FS2
reactant | bromine | BrBr | Br2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 28 ml, 1.1 equiv | C(C)(=O)O | C2H4O2
product | 5-Bromo-2-(4-fluorophenyl)-3-(4-methylthiophenyl)thiophene | BrC1=CC(=C(S1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)SC | C17H12BrFS2
